US08232312B2
5-(3,5-dichloro-phenylsulphonylamino)-1H-indol-2-carboxylic acid-dimethylamide
55 mg 5-(3,5-dichloro-phenylsulphonylamino)-1H-indole-2-carboxylic acid are dissolved in 2 ml of tetrahydrofuran, combined with 25 mg carbonyldiimidazole, stirred for 3 hours at ambient temperature and for 1 hour at 40° C. Then the mixture is combined with 300 μl dimethylamine (2 M in tetrahydrofuran) and stirred overnight. The solvent is eliminated in vacuo and the residue is divided between ethyl acetate and 0.5 N hydrochloric acid. The organic phase is washed with water and saturated sodium chloride solution and dried on magnesium sulphate. After elimination of the solvents in vacuo the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 90:10 to 30:70).

reactant | 5-(3,5-dichloro-phenylsulphonylamino)-1H-indole-2-carboxylic acid | 55 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C15H10Cl2N2O4S
reactant | carbonyldiimidazole | 25 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 2 M, 300 μl | CNC | C2H7N
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,5-dichloro-phenylsulphonylamino)-1H-indol-2-carboxylic acid-dimethylamide | CN(C(=O)C=1NC2=CC=C(C=C2C1)NS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)C | C17H15Cl2N3O3S
